US06410550B1
B) 4-Iodo-10-aza-tricyclo[6.3.1.02,7]dodeca-2(7),3,5-triene-10-carboxylic acid tert-butyl ester
1-(4-Iodo-10-aza-tricyclo[6.3.1.02,7]dodeca-2(7),3,5-trien-10-yl)-2,2,2-trifluoro-ethanone (5 g, 13.1 mmol) and 37% saturated aqueous NH4OH solution (50 mL)) were stirred in MeOH (250 ml) for 2 hours then concentrated and azeotroped with MeOH (2×50 mL). The resulting product was stirred in 1,4-dioxane (75 mL) and treated with saturated Na2CO3 solution (15 mL). To this was added di-t-butyldicarbonate (5.71 g, 26.2 mmol). After stirring 18 hours the reaction was treated with H2O (50 mL) and extracted with CH2Cl2 (4×30 mL), dried (Na2SO4), filtered, concentrated and chromatographed on Silica gel (TLC 20% EtOAc/hexanes) to provide product as an oil (4.9 g, 98% ).

reactant | 1-(4-Iodo-10-aza-tricyclo[6.3.1.02,7]dodeca-2(7),3,5-trien-10-yl)-2,2,2-trifluoro-ethanone | 13.1 mmol, 5 g | IC1=CC=2C3CN(CC(C2C=C1)C3)C(C(F)(F)F)=O | C13H11F3INO
reactant | NH4OH | 50 mL | [NH4+].[OH-]
reactant | di-t-butyldicarbonate | 26.2 mmol, 5.71 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | H2O | 50 mL | O | H2O
solvent | MeOH | 250 ml | CO | CH4O
product | 4-Iodo-10-aza-tricyclo[6.3.1.02,7]dodeca-2(7),3,5-triene-10-carboxylic acid tert-butyl ester | 4.9 g, 98% | C(C)(C)(C)OC(=O)N1CC2C=3C=CC(=CC3C(C1)C2)I | C16H20INO2
